US04500467
63.0 g (0.4 mole) of cysteine hydrochloride were suspended in 400 ml of water, and 112.5 g (0.8 mole) of benzoyl chloride were added. A solution of 89.8 g (1.6 moles) of potassium hydroxide in 1 liter of water was added dropwise to the stirred mixture, while cooling at 0°-5° C. Stirring was continued for a further hour at room temperature, after which the mixture was rendered strongly acidic with aqueous 2N HCl, the precipitate was filtered off under suction and washed neutral with water, and the product was recrystallized twice from methanol/water. 106.3 g (81%) of N,S-dibenzoylcysteine of melting point 183°-185° C. were obtained; Rf=0.43 in system I, [α]D20 =-85.7° (c=1 in absolute ethanol).

reactant | cysteine hydrochloride | 0.4 mole, 63.0 g | Cl.N[C@@H](CS)C(=O)O
reactant | benzoyl chloride | 0.8 mole, 112.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium hydroxide | 1.6 moles, 89.8 g | [OH-].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | water | 1 liter | O | H2O
product | N,S-dibenzoylcysteine | 106.3 g, 81% | C(C1=CC=CC=C1)(=O)N[C@@H](CSC(C1=CC=CC=C1)=O)C(=O)O | C17H15NO4S
